US05475114
A 8.06 g portion of 3-amino-4-methyl-1H-pyrazole was dissolved in 30 ml of acetonitrile and, with cooling on an ice bath, 12.9 g of ethyl propionimidate hydrochloride was added to the solution. The resulting mixture was stirred for 1 hour at the same temperature and then overnight at room temperature. After removing insoluble materials by filtration, the resulting filtrate was concentrated under a reduced pressure, and the thus obtained residue was subjected to silica gel column chromatography. Elution with methanol-chloroform (1:9-3:7, v/v) gave 8.40 g of N-(4-methyl-1H-pyrazol-3-yl)propionamidine hydrochloride.

reactant | 3-amino-4-methyl-1H-pyrazole | NC1=NNC=C1C | C4H7N3
reactant | ethyl propionimidate hydrochloride | 12.9 g | Cl.C(CC)(OCC)=N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-(4-methyl-1H-pyrazol-3-yl)propionamidine hydrochloride | 8.40 g | Cl.CC=1C(=NNC1)NC(CC)=N | InChI=1S/C7H12N4.ClH/c1-3-6(8)10-7-5(2)4-9-11-7;/h4H,3H2,1-2H3,(H3,8,9,10,11);1H
